US07563786B2
(d) 5-Ethynyl-N-{3-[3-methyl-4-(3-oxomorpholin-4-yl)phenylcarbamoyl]-tetrahydrofuran-3-yl}thiophene-2-carboxamide
Prepared analogously to Example 1a from 5-ethynylthiophene-2-carboxylic acid and 3-amino-N-[3-methyl-4-(3-oxomorpholin-4-yl)phenyl]tetrahydro-furan-3-carboxamide with TBTU and NMM in DMF.

reactant | 5-ethynylthiophene-2-carboxylic acid | C(#C)C1=CC=C(S1)C(=O)O | C7H4O2S
reactant | 3-amino-N-[3-methyl-4-(3-oxomorpholin-4-yl)phenyl]tetrahydro-furan-3-carboxamide | NC1(COCC1)C(=O)NC1=CC(=C(C=C1)N1C(COCC1)=O)C | C16H21N3O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Ethynyl-N-{3-[3-methyl-4-(3-oxomorpholin-4-yl)phenylcarbamoyl]-tetrahydrofuran-3-yl}thiophene-2-carboxamide | C(#C)C1=CC=C(S1)C(=O)NC1(COCC1)C(NC1=CC(=C(C=C1)N1C(COCC1)=O)C)=O | C23H23N3O5S
